* CMOS One-Stage Op-Amp Template

* Power supplies
V3 VSS 0 DC -2.5
V4 VDD 0 DC 2.5

* Input sources
V1 in+ 0 AC 1
V2 in- 0 AC 0

* Bias current source (to be optimized)
I1 VDD N002 DC 4.1502331727172204e-05

* Transistors
M1 N001 N002 VSS VSS NMOS W=1.2256211200395475 L=0.18u
M2 out+ in+ N001 VSS NMOS W=3.5403487378314944 L=0.18u
M3 out- in- N001 VSS NMOS W=3.519165493102972 L=0.18u
M4 N002 N002 VSS VSS NMOS W=1.2161277027171833 L=0.18u
M5 VDD out+ out+ VDD PMOS W=2.4556060266881676 L=0.18u
M6 VDD out+ out- VDD PMOS W=9.808612964563558 L=0.18u

* Capacitors
C1 out- 0 3.0886685845305815e-12
C2 out+ 0 8.78799135676504e-12

* Models
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos

* AC Analysis
.ac dec 100 1 100Meg

* Measurements
.meas ac gain_max max db(v(out-))
.meas ac power_avg avg I(V4)

.end
