* CMOS One-Stage Op-Amp Template

* Power supplies
V3 VSS 0 DC -2.5
V4 VDD 0 DC 2.5

* Input sources
V1 in+ 0 AC 1
V2 in- 0 AC 0

* Bias current source (to be optimized)
I1 VDD N002 DC $I1$

* Transistors
M1 N001 N002 VSS VSS NMOS W=$W_M1$ L=0.18u
M2 out+ in+ N001 VSS NMOS W=$W_M2$ L=0.18u
M3 out- in- N001 VSS NMOS W=$W_M3$ L=0.18u
M4 N002 N002 VSS VSS NMOS W=$W_M4$ L=0.18u
M5 VDD out+ out+ VDD PMOS W=$W_M5$ L=0.18u
M6 VDD out+ out- VDD PMOS W=$W_M6$ L=0.18u

* Capacitors
C1 out- 0 $C1$
C2 out+ 0 $C2$

* Models
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos

* AC Analysis
.ac dec 100 1 100Meg

* Measurements
.meas ac gain_max max db(v(out-))
.meas ac power_avg avg I(V4)

.end
